US04954518
2.95 g of 7-acetylamino-6-phenoxy-4H-1-benzopyran-4-one was dissolved in 30 ml of N,N-dimethylformamide. 440 mg of sodium hydride (purity: 60%) was added thereto with ice-cooling. The mixture was stirred at the same temperature until the generation of hydrogen gas stopped. Then, 1.26 g of methanesulfonyl chloride was added thereto dropwise. The mixture was stirred for 1 hour at 20°-25° C. 200 ml of water and 200 ml of ethyl acetate were added thereto. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The resulting crystal was recrystallized from ethanol to obtain 3.22 g (yield: 86.1%) of 7-(N-acetyl-N-methylsulfonylamino)-6-phenoxy-4H-1-benzopyran-4-one having a melting point of 166°-169° C.

reactant | 7-acetylamino-6-phenoxy-4H-1-benzopyran-4-one | 2.95 g | C(C)(=O)NC1=CC2=C(C(C=CO2)=O)C=C1OC1=CC=CC=C1 | C17H13NO4
reactant | sodium hydride | 440 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | methanesulfonyl chloride | 1.26 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
product | 7-(N-acetyl-N-methylsulfonylamino)-6-phenoxy-4H-1-benzopyran-4-one | 3.22 g, yield: 86.1% | C(C)(=O)N(S(=O)(=O)C)C1=CC2=C(C(C=CO2)=O)C=C1OC1=CC=CC=C1 | C18H15NO6S
